US08431563B2
A 1-L pressure vessel was charged with 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (70.8 g, 219 mmol, Bioorg. Med. Chem. Lett. 2002, 12, 3009), tert-butyl piperazine-1-carboxylate (40.0 g, 215 mmol, Sigma-Aldrich, St. Louis, Mo.), 200 mL of toluene, and sodium tert-butoxide (43.3 g, 451 mmol). Nitrogen gas was bubbled through the solution for 5 min then chloro(2-dicyclohexylphosphino-2′,6′-di-1-propoxy-1,1′-biphenyl)[2-(2-aminoethylphenyl)]palladium(II), methyl-t-butylether adduct (RuPhos Palladacycle) (1.57 g, 2.15 mmol, Strem Chemicals Inc, Newburyport, Mass.) and 2-dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine (RuPhos) (2.00 g, 4.30 mmol, Strem Chemicals Inc, Newburyport, Mass.) were added. The vessel was sealed and heated at 65° C. for 2 h. The mixture was then diluted with water and extracted with EtOAc. The combined organic extracts were dried (MgSO4), filtered, and concentrated to give an oil. To this material was added 200 mL of EtOAc and 200 mL of 4N HCl in dioxane. The solution was heated at 80° C. for 12 h and the resulting suspension was then allowed to cool to room temperature. The solid precipitate was collected by filtration to give 1,1,1,3,3,3-hexafluoro-2-(4-(1-piperazinyl)phenyl)-2-propanol dihydrochloride (76.2 g) as a white solid.

reactant | 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 219 mmol, 70.8 g | BrC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H5BrF6O
reactant | tert-butyl piperazine-1-carboxylate | 215 mmol, 40.0 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | sodium tert-butoxide | 451 mmol, 43.3 g | CC(C)([O-])C.[Na+]
reactant | HCl | 4N, 200 mL | Cl | ClH
solvent | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | methyl-t-butylether | 2.15 mmol, 1.57 g | COC(C)(C)C | C5H12O
catalyst | RuPhos | 4.30 mmol, 2.00 g | CC(C)OC1=C(C(=CC=C1)OC(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C30H43O2P
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 1,1,1,3,3,3-hexafluoro-2-(4-(1-piperazinyl)phenyl)-2-propanol dihydrochloride | 76.2 g | Cl.Cl.FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)N1CCNCC1)(F)F | InChI=1S/C13H14F6N2O.2ClH/c14-12(15,16)11(22,13(17,18)19)9-1-3-10(4-2-9)21-7-5-20-6-8-21;;/h1-4,20,22H,5-8H2;2*1H
